US09120822B2
Acetic acid (10 μL, 0.17 mmol, 5.4 eq) is added at room temperature to a stirred solution of [trans-4-(3-hydroxy-6-methoxy-3,4-dihydro-2H-1-oxa-4,5,9-triaza-phenanthren-3-yl)-cyclohexyl]-carbamic acid benzyl ester (15 mg, 0.03 mmol, 1.0 eq) in dichloromethane (3 mL) and methanol (3 mL), followed by sodium cyanoborohydride (10 mg, 0.16 mmol, 5.0 eq). After 30 minutes stirring at room temperature, the reaction mixture is extracted with ethyl acetate (3×10 mL) and a saturated ammonium chloride aqueous solution (10 mL). The combined organic layers are dried over sodium sulfate, filtered and concentrated to give a residue that is purified by column chromatography (silica gel, eluent: dichloromethane:methanol, 10:1, v/v) to afford [trans-4-(6-methoxy-3,4-dihydro-2H-1-oxa-4,5,9-triaza-phenanthren-3-yl)-cyclohexyl]-carbamic acid benzyl ester as a white solid (11 mg, 76% yield).

reactant | Acetic acid | 0.17 mmol, 10 μL, 5.4 eq | C(C)(=O)O | C2H4O2
reactant | [trans-4-(3-hydroxy-6-methoxy-3,4-dihydro-2H-1-oxa-4,5,9-triaza-phenanthren-3-yl)-cyclohexyl]-carbamic acid benzyl ester | 0.03 mmol, 15 mg, 1.0 eq | C(C1=CC=CC=C1)OC(N[C@@H]1CC[C@H](CC1)C1(COC=2C=NC3=CC=C(N=C3C2N1)OC)O)=O | C25H28N4O5
reactant | sodium cyanoborohydride | 0.16 mmol, 10 mg, 5.0 eq | C(#N)[BH3-].[Na+]
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
solvent | methanol | 3 mL | CO | CH4O
product | [trans-4-(6-methoxy-3,4-dihydro-2H-1-oxa-4,5,9-triaza-phenanthren-3-yl)-cyclohexyl]-carbamic acid benzyl ester | 11 mg, 76% yield | C(C1=CC=CC=C1)OC(N[C@@H]1CC[C@H](CC1)C1COC=2C=NC3=CC=C(N=C3C2N1)OC)=O | C25H28N4O4
